US07186703B2
4-Hexadecanyl Monosodium Phosphate.
4-Hexadecanyl phosphate (3.13 g, 0.0097 mol) was dissolved in ethanol (150 ml). NaOH (0.37 g, 0.0092 mol) was added and the mixture was stirred for 48 hrs and then evaporated. Ethanol (2×150 ml) was added and evaporated. Ether (2×100 ml) was added and evaporated. The obtained solid was triturated with acetone (100 ml) and dried under 1 mm. Hg atmosphere overnight. 2.98 g of final product was obtained. Yield 87%.

reactant | 4-Hexadecanyl phosphate | 0.0097 mol, 3.13 g | P(=O)(OC(CCC)CCCCCCCCCCCC)([O-])[O-]
reactant | NaOH | 0.0092 mol, 0.37 g | [OH-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-Hexadecanyl Monosodium Phosphate | 2.98 g, Yield 87% | P(=O)(O)(O)O.CCCC(CCCCCCCCCCCC)[Na] | InChI=1S/C16H33.Na.H3O4P/c1-3-5-7-9-11-13-15-16-14-12-10-8-6-4-2;;1-5(2,3)4/h7H,3-6,8-16H2,1-2H3;;(H3,1,2,3,4)
